US04323469
4.3 g (0.025 moles) of methyl-(N-3-hydroxyphenyl)-carbamate are reacted with 7.3 g (0.025 moles) of N-phenylcarbamoylbenzoic acid sulfimide (m.p.: 184°-186° C.) in 15 ml of acetone, in the presence of 2.56 g (0.025 moles) of triethyl amine, at 40° C. for 15 minutes. To the reaction mixture 40 ml of water are added and it is cooled to 5° to 10° C. The mixture is allowed to stand for 30 minutes, filtered, washed and dried. 5.5 g of 3-methoxycarbonylaminophenyl-phenyl carbamate are obtained, melting at 150° to 152° C.

reactant | methyl-(N-3-hydroxyphenyl)-carbamate | 0.025 moles, 4.3 g | COC(NC1=CC(=CC=C1)O)=O | C8H9NO3
reactant | triethyl amine | 0.025 moles, 2.56 g | C(C)N(CC)CC | C6H15N
reactant | water | 40 ml | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 3-methoxycarbonylaminophenyl-phenyl carbamate | 5.5 g | C(N)(OC1=C(C=CC=C1)C1=CC(=CC=C1)NC(=O)OC)=O | C15H14N2O4
